US05856573
Methanol (4 ml) and 50% aqueous hydroxylamine solution (0.4 g, 0.006 mol) were added to 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide (0.53 g, 0.002 mol). The mixture was stirred under reflux for 5 hours. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-hydroxyimino-N-methylacetamide (Isomer A: 0.21 g (Yield: 37.5%), colorless oil; Isomer B: 0.14 g (Yield: 25.0%), colorless crystals).

reactant | Methanol | 4 ml | CO | CH4O
reactant | hydroxylamine | 0.006 mol, 0.4 g | NO | H3NO
reactant | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide | 0.002 mol, 0.53 g | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=O | C14H19NO4
solvent | water | 100 ml | O | H2O
product | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-hydroxyimino-N-methylacetamide | Yield: 37.5% | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=NO | C14H20N2O4
